US05032500
1.15 g of 3-carboxymethyl rhodanine and 1 g of 5-amino-2-mercaptobenzimidazole were dissolved in 25 ml of tetrahydrofuran. A solution of 1.2 g of dicyclohexyl carbodiimide in 5 ml of tetrahydrofuran was added to the solution. The mixture was then stirred at room temperature for 5 hours. The resulting precipitate was filtered off to obtain 2 g of semiopaque powder. 20 ml of N,N-dimethylformamide was added to the powder. The mixture was then stirred. Insoluble matters were filtered out. 200 ml of water was added to the filtrate. The resulting precipitate was filtered off, washed with water and then dried to obtain 1.1 g of 3-[N-(2-mercaptobenzimidazole-5-yl)carbamoyl]rhodanine in the form of semiopaque powder;

reactant | 3-carboxymethyl rhodanine | 1.15 g | C(=O)(O)CN1C(SCC1=O)=S | C5H5NO3S2
reactant | 5-amino-2-mercaptobenzimidazole | 1 g | NC1=CC2=C(N=C(N2)S)C=C1 | C7H7N3S
reactant | dicyclohexyl carbodiimide | 1.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[N-(2-mercaptobenzimidazole-5-yl)carbamoyl]rhodanine | 1.1 g | SC=1NC2=C(N1)C=CC(=C2)NC(=O)N2C(SCC2=O)=S | C11H8N4O2S3
